US04355177
The N-heptylidene-(2-methylpropenylamine) was prepared from heptanal and methallylamine, with subsequent isomerisation of the reaction product with potassium tert.-butylate; boiling point 54° C./5 Pa; nD20 =1.4662.

reactant | heptanal | C(CCCCCC)=O | C7H14O
reactant | methallylamine | C(C(C)=C)N | C4H9N
product | N-heptylidene-(2-methylpropenylamine) | C(CCCCCC)=NC=C(C)C | C11H21N
